US07531506B2
Fmoc-Ser(tBu)-OH (1 g, 2.6 mmol) was dissolved in CH2Cl2 (7 mL). DMAP (0.15 g, 1.3 mmol, 0.5 equiv) and 2,2,2-trichloroethanol (Tce) (0.3 mL, 3.1 mmol, 1.2 equiv) were first added, and then DCC (0.63 g, 3.1 mmol, 1.2 equiv) in CH2Cl2 (2.5 mL) was added under N2 atmosphere at 0° C. The reaction mixture was allowed to stir for 18 h at room temperature. The organic reaction was cooled to 0° C., filtered and the filtrate was concentrate in vacuo. The resulting crude was dissolved in EtOAc (7 mL) and washed with 10% aqueous citric acid (2×10 mL), saturated aqueous NaHCO3 (2×10 mL) and brine (2×10 mL), dried (MgSO4), and concentrated in vacuo to give Fmoc-Ser(OtBu)-OTce (1.34 g), which was used without further purification.

reactant | Fmoc-Ser(tBu)-OH | 2.6 mmol, 1 g | N([C@@H](COC(C)(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C22H25NO5
reactant | 2,2,2-trichloroethanol | 3.1 mmol, 0.3 mL, 1.2 equiv | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | DCC | 3.1 mmol, 0.63 g, 1.2 equiv | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.3 mmol, 0.15 g, 0.5 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | Fmoc-Ser(OtBu)-OTce | 1.34 g | N([C@@H](COC(C)(C)C)C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C24H26Cl3NO5
